US04319916
1-Methyl-3-(3-trifluoromethylphenyl)-5-valeryl-4(1H)-pyridinone
To a 6 g. portion of crude 1-(3-trifluoromethylphenyl)-2,4-octanedione was added 40 ml. of N,N-dimethylformamide dimethyl acetal and a few milliliters of methanol. The mixture was stirred under reflux overnight, and was then evaporated under vacuum to obtain 8.9 g. of a thick dark oil. The oil was taken up in 50 ml. of methanol, 9 g. of methylamine hydrochloride was added, and the mixture was stirred under reflux for 3 hours. It was then evaporated to a semi-solid under vacuum, and the residue was partitioned between diethyl ether and water. The organic layer was dried over magnesium sulfate and evaporated under vacuum. The residue was chromatographed on a 300 g. silica gel column with 2:3 ethyl acetate:dichloromethane, and the product-containing fractions were combined and evaporated under vacuum to obtain 0.17 g. of the desired product in impure form. Nmr analysis in DMSOd6 showed peaks at δ7.6-8.3 (m, 6H, aromatic); 3.8 (s, 3H, N--CH3); 3.0-3.3 (t, 2H, COCH2); 0.7-1.8 (m, 7H, CH2CH2CH3).

reactant | 1-(3-trifluoromethylphenyl)-2,4-octanedione | FC(C=1C=C(C=CC1)CC(CC(CCCC)=O)=O)(F)F | C15H17F3O2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | methylamine hydrochloride | Cl.CN
solvent | methanol | CO | CH4O
solvent | methanol | a few milliliters | CO | CH4O
product | 1-Methyl-3-(3-trifluoromethylphenyl)-5-valeryl-4(1H)-pyridinone | CN1C=C(C(C(=C1)C(CCCC)=O)=O)C1=CC(=CC=C1)C(F)(F)F | C18H18F3NO2
